Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope, Myoclonus
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old male recently admitted for e. coli bacteremia 
thought to be secondary to colonscopy or pyelonephritis, who 
presents after brief episode of rhythmic jerking. The patient 
was seated on his couch and while witnessed by his wife had ___ 
seconds of whole body shaking. He did not lose consciousness. 
The patient was not post-ictal, and had no incontinence or 
tongue biting. The patient initially presented to ___ but 
was transferred to ___ for further neurological evaluation. 

The patient has right arm cellulitis incidentally from an IV and 
was given ceftriaxone the day prior to presentation for this. In 
addition he remains on levofloxacin for the e coli bacteremia.

During his recent admission (discharged from ___ HMED on 
___, there was initial concern for a stroke given his level of 
encephalopathy (although I do not see in notes any focality 
noted) so underwent CT of the head, carotid arteries, MRI brain 
and MRI spine in workup, all of which was negative for brain 
pathology. He was noted during this to be bacteremic and so he 
was treated with Vancomycin and Zosyn initially given he 
appeared septic.

Incidentally found was a large calcified bladder mass which was 
concerning and planned future cystoscopy for evaluation with Dr. 
___ urologist at ___.

In the ___ ED his initial vitals were 98.2, 60, 176/109, 18, 
99%. Neurology was consulted 
 
Past Medical History:
Hypertension
Diabetes
Sleep apnea
Aortic stenosis
History of Rheumatic fever
History of poliomyelitis

 
Social History:
___
Family History:
Mother: ___
Father: CAD
 
Physical ___:
ROS:
 GEN: - fevers, - Chills, - Weight Loss
 EYES: - Photophobia, - Visual Changes
 HEENT: - Oral/Gum bleeding
 CARDIAC: - Chest Pain, - Palpitations, - Edema
 GI: - Nausea, - Vomitting, - Diarhea, - Abdominal Pain, - 
Constipation, - Hematochezia
 PULM: - Dyspnea, - Cough, - Hemoptysis
 HEME: - Bleeding, - Lymphadenopathy
 GU: - Dysuria, - hematuria, - Incontinence
 SKIN: - Rash
 ENDO: - Heat/Cold Intolerance
 MSK: - Myalgia, - Arthralgia, - Back Pain
 NEURO: - Numbness, - Weakness, - Vertigo, - Headache

 

PHYSICAL EXAM - Admission and discharge exams are the 
same/unchanged

VSS: 98.3, 172/84, 57, 18, 95%
 GEN: NAD
 Pain: ___
 HEENT: EOMI, MMM, - OP Lesions
 PUL: CTA B/L
 COR: RRR, S1/S2, - MRG
 ABD: NT/ND, +BS, - CVAT
 EXT: - CCE
 NEURO: CAOx3, Motor ___ ___ flex/ext
 
Pertinent Results:
___ 07:58PM BLOOD WBC-8.3 RBC-3.71* Hgb-11.6* Hct-33.1* 
MCV-89 MCH-31.3 MCHC-35.0 RDW-12.4 RDWSD-40.4 Plt ___
___ 07:58PM BLOOD Neuts-67.3 ___ Monos-7.9 Eos-1.8 
Baso-0.2 Im ___ AbsNeut-5.56 AbsLymp-1.82 AbsMono-0.65 
AbsEos-0.15 AbsBaso-0.02
___ 07:58PM BLOOD ___ PTT-25.7 ___
___ 07:58PM BLOOD Glucose-144* UreaN-15 Creat-0.9 Na-146 
K-4.0 Cl-105 HCO3-26 AnGap-15
___ 07:58PM BLOOD cTropnT-<0.01
___ 08:00PM BLOOD Lactate-1.6
___ 07:58PM URINE Color-Straw Appear-Clear Sp ___
___ 07:58PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-150* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 07:58PM URINE RBC-<1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 07:58PM URINE CastHy-1*
 
___ 7:58 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 7:58 pm URINE

   URINE CULTURE (Pending): 

___ RADIOLOGY: 
MRI  MRI SPINE TOTAL W/O CONTRAST    Date / Time of Exam: 
___ 8:59 AM 
CONCLUSIONS:
1. Lumbar DDD superimposed on developmentally small canal. 
Bilateral
moderate L4 (L > R) and L5 foraminal stenosis. There is also 
L4/5
lateral recess stenosis L > R. Facet hypertrophy, diffuse disc 
bulging
contribute.
2. No evidence for lumbar spondylodiscitis. Ascites noted in the
pelvis. Bladder decompressed, containing a Foley, showing 
diffuse wall
thickening.
3. No evidence for thoracic spondylodiscitis. A few mid and 
lower
thoracic Schmorl node endplate deformities.
4. Cervical spondylosis, from C4 through C7 without central 
stenosis.
The cervical foramina are poorly seen, were not assessed in the 
axial
plane. No evidence for cervical spondylo discitis.
5. No discrete cervical thoracic or conus medullaris signal
abnormality. No abnormal epidural process compressing thecal sac 
seen.
6. No dominant fracture, or significant listhesis.

MRI BRAIN W/O CONTRAST Date / Time of Exam: ___ 12:00 AM 
Conclusion:
1. Mild generalized involution. Minimal white matter signal
abnormalities, probably minimal small vessel ischemic
leukoencephalopathy. Similar overall compared with the CT scans 
of
yesterday and the day before.
2. Otherwise Normal MRI brain survey, performed at 1.5 T, 
without
gadolinium.
3. No acute infarct, acute hemorrhage, edema, mass, or mass 
effect.

___ CT angiography circle of ___
IMPRESSION:
1. CT angiogram circle of ___ unremarkable.

US  CAROTID               Date / Time of Study: ___ 2:45 ___
IMPRESSION:
1. Noncalcified minimal atherosclerotic plaque common carotid 
artery
in the right. No hemodynamically significant stenosis.
2. Calcified and noncalcified atherosclerotic plaque 1 cm from 
the
origin of the internal carotid artery with calculated 
hemodynamic
stenosis approximately 50%.

 
Brief Hospital Course:
1. Syncope with Myoclonic Jerking
- Seen by neurology in the ED, not felt to be likely seizure 
based on description (lacking prodrome, loss of consciousness, 
post-ictal state, loss of bowel/bladder continence, or tongue 
biting).
- Imaging studies benign, including extensive workup at ___ 
___ very recently
- No events on telemetry
- Walked fine with nursing with negative orthstatics (though 
this was after IVF given in the ED)
- Likely diagnosis is vasovagal or orthostatic syncope with some 
myoclonic jerking which is a well described phenomenon
- Had apparently recently started metoprolol which could 
obviously increase chance of syncopal event in the right 
situation. Held here and at discharge.

2. Hypertension
- Resumed lisinopril due to hypertension here
- Holding metoprolol until follow up with PCP given this 
syncopal episode

3. Type 2 Diabetes
- Continued home metoprolol
- Continued home aspirin for primary prevention

4. Question of cellulitis in right arm
- Day after admission there was really no evidence of any 
cellulitis

5. Recent bacteremia
- Continued his home Levofloxacin (no amendment to course)

>30 minutes spent coordinating discharge home
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO BID 
4. lutein 6 mg oral DAILY 
5. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Levofloxacin 500 mg PO Q24H 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Fish Oil (Omega 3) 1000 mg PO BID  
3.  Levofloxacin 500 mg PO Q24H  
4.  Lisinopril 40 mg PO DAILY  
5.  lutein 6 mg oral DAILY  
6.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  
7.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Myclonic syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with a possible syncopal event with some 
jerking movements. You had a thorough evaluation for causes of 
syncope and also a neurologic evaluation. It was thought that 
you had a vasovagal episode or an episode or an orthostatic 
episode, which are benign forms of passing out and related to 
changes in the blood pressure that are transient.
 
Followup Instructions:
___